US08202868B2
a.2.1: Methyl-2-cyclopropanoyl-acetate
48.6 g of meldrum's acid (337.4 mmol) were dissolved in 200 ml of dichloromethane at room temperature and the solution was cooled to 0° C. 40 g of pyridine (506.1 mmol) were added to said solution. 35.3 g of cyclopropyl carbonic acid chloride (337.4 mmol) were then added at 0° C. within 1 h. The reaction mixture was stirred overnight at room temperature, washed with 1 N HCl and extracted with dichloromethane. The organic layer was washed with water, dried over magnesium sulfate, filtered and then concentrated to dryness. The oily residue was dissolved in 300 ml of methanol and stirred under reflux for 2 h. The reaction mixture was concentrated to dryness and the oily residue was purified by destillation at 90° C. bath temperature to yield 42.7 g (71.1%) of the title compound.

reactant | meldrum's acid | 337.4 mmol, 48.6 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | pyridine | 506.1 mmol, 40 g | N1=CC=CC=C1 | C5H5N
reactant | cyclopropyl carbonic acid chloride | 337.4 mmol, 35.3 g | C1(CC1)[ClH]C(=O)Cl | C4H6Cl2O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | Methyl-2-cyclopropanoyl-acetate | 42.7 g, 71.1% | COC(CC(=O)C1CC1)=O | C7H10O3
